US04758552
Preparation of Glp-His-Trp-OMe (molecular weight: 466.50)
To the solution containing 15.84 g (25 mmoles) of Glp-His(DNP)-Trp-OMe protected tripeptide in 100 ml of DMF and 40 ml of water, 4 ml of mercaptoethanol are added, then the pH-value of the solution is adjusted to 8 by adding TEA. The solution is left to stand at room temperature for 30 minutes, then evaporated to dryness under reduced pressure. The oily residue is thoroughly triturated with ether, filtered and dried. The thus-obtained product is dissolved in a little volume of methanol and crystallized by adding ether. The crystals are filtered and dried to give 10.92 g (93.5% yield) of the aimed compound, m.p.: 228°-232° C.

reactant | Glp-His(DNP)-Trp-OMe | 25 mmoles, 15.84 g | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CN(C=N1)C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OC | C29H28N8O9
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | 40 ml | O | H2O
solvent | mercaptoethanol | 4 ml | SC(C)O | C2H6OS
product | Glp-His-Trp-OMe | 10.92 g, 93.5% yield | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OC | C23H26N6O5
